US09422292B2
A round bottomed flask was charged with 3-amino-3-methylbutanoic acid (1.452 g, 12.39 mmol), potassium carbonate (2.57 g, 18.59 mmol), and a stirbar. EtOH (20 mL, 0.5 M) was added, followed by 1-fluoro-2-nitrobenzene (2.84 ml, 15.49 mmol), and the solution was stirred at reflux overnight. The mixture was cooled, concentrated with celite, and purified by silica gel chromatography (eluting with methylene chloride/methanol/ammonium hydroxide) to yield 3-methyl-3-(2-nitrophenylamino)butanoic acid as a red solid (2.32 g, 9.73 mmol, 79%).

reactant | 3-amino-3-methylbutanoic acid | 12.39 mmol, 1.452 g | NC(CC(=O)O)(C)C | C5H11NO2
reactant | potassium carbonate | 18.59 mmol, 2.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-fluoro-2-nitrobenzene | 15.49 mmol, 2.84 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | EtOH | 0.5 M, 20 mL | CCO | C2H6O
product | 3-methyl-3-(2-nitrophenylamino)butanoic acid | 9.73 mmol, 2.32 g, 79% | CC(CC(=O)O)(C)NC1=C(C=CC=C1)[N+](=O)[O-] | C11H14N2O4
